US05290788
3-[5-(2-Quinolylmethoxy)indol-1-yl]propionic acid
A mixture of 1-ethoxycarbonylethyl-5-(2-quinolylmethoxy)indole (2.0 g) and lithium hydroxide monohydrate (0.9 g) in aqueous tetrahydrofuran was refluxed for 3 hours. The cooled mixture was extracted with ethyl acetate and the organic layer was washed with water, dried over magnesium sulfate, and concentrated in vacuo. The crude product was chromatographed on silica gel eluting with 50%-ethyl acetate in n-hexanes to yield the titled product, m.p. 157°-160° C.

reactant | 1-ethoxycarbonylethyl-5-(2-quinolylmethoxy)indole | 2.0 g | C(C)OC(=O)C(C)C=1NC2=CC=C(C=C2C1)OCC1=NC2=CC=CC=C2C=C1 | C23H22N2O3
reactant | lithium hydroxide monohydrate | 0.9 g | O.[OH-].[Li+]
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
product | 3-[5-(2-Quinolylmethoxy)indol-1-yl]propionic acid | N1=C(C=CC2=CC=CC=C12)COC=1C=C2C=CN(C2=CC1)CCC(=O)O | C21H18N2O3
